US08278335B2
Step 5. 2-Chloro-6-methyl-6,7-dihydro-5H-pyrrolo[3,4-b]pyridin-5-one
Methyl 6-chloro-2-(chloromethyl)pyridine-3-carboxylate (1.5 g, 6.82 mmol) was stirred in a solution of methylamine in tetrahydrofuran (35 mL, 70.0 mmol) at room temperature overnight. Water was added and the products extracted into ethyl acetate (2×). The combined organic extracts were washed with brine, dried over MgSO4 and concentrated in vacuo. The residue was triturated in diethyl ether to give a first batch of product. The mother liquor was concentrated in vacuo and the residue purified by flash chromatography (silica, 40-100% ethyl acetate/hexanes) and combined with the first batch to afford the title compound as a white solid. LRMS (APCI) calcd for C8H8ClN2O [M+H]+ 183.0, found 183.0.

reactant | Methyl 6-chloro-2-(chloromethyl)pyridine-3-carboxylate | 6.82 mmol, 1.5 g | ClC1=CC=C(C(=N1)CCl)C(=O)OC | C8H7Cl2NO2
reactant | methylamine | CN | CH5N
reactant | tetrahydrofuran | 70.0 mmol, 35 mL | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | 2-Chloro-6-methyl-6,7-dihydro-5H-pyrrolo[3,4-b]pyridin-5-one | ClC1=CC=C2C(=N1)CN(C2=O)C | C8H7ClN2O
